US07217723B2
(5-[1-(t-Butyldimethylsiloxy)vinyl]-3-{[2-(4-fluorophenyl)ethyl]-methylsulfamoyl}thiophene-2-yl)carbamic acid t-butyl ester
To a solution of (5-acetyl-3-{[2-(4-fluorophenyl)ethyl]methylsulfamoyl}thiophene-2-yl)-carbamic acid t-butyl ester (the compound of Preparation Example 111) (946 mg) in dichloromethane (8 mL) was added triethylamine (0.58 mL) and 0.71 mL of t-butyldimethylsilyltrifluoromethane sulfonate (0.71 mL) on an ice bath. After stirring for 30 minutes, an aqueous solution of saturated sodium bicarbonate was added, and the solution was extracted with ethyl acetate. After drying the organic layer with anhydrous sodium sulfate, the residue that was obtained upon removal of the solvent by evaporation was purified by silica gel column chromatography (hexane/ethyl acetate) and, the title compound (985 mg) was obtained as a colorless oily matter.

reactant | (5-acetyl-3-{[2-(4-fluorophenyl)ethyl]methylsulfamoyl}thiophene-2-yl)-carbamic acid t-butyl ester | C(C)(C)(C)OC(NC=1SC(=CC1S(N(C)CCC1=CC=C(C=C1)F)(=O)=O)C(C)=O)=O | C20H25FN2O5S2
reactant | triethylamine | 0.58 mL | C(C)N(CC)CC | C6H15N
reactant | t-butyldimethylsilyltrifluoromethane sulfonate | 0.71 mL | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | (5-[1-(t-Butyldimethylsiloxy)vinyl]-3-{[2-(4-fluorophenyl)ethyl]-methylsulfamoyl}thiophene-2-yl)carbamic acid t-butyl ester | 985 mg | C(C)(C)(C)OC(NC=1SC(=CC1S(N(C)CCC1=CC=C(C=C1)F)(=O)=O)C(=C)O[Si](C)(C)C(C)(C)C)=O | C26H39FN2O5S2Si
